US06713499B2
To a stirred solution of 79 mg (0.56 mmol) 4-fluoro-benzoic acid in 10 ml THF were added 235 mg (0.62 mmol) HATU and 0.11 ml (0.62 mmol) N-ethyldiisopropylamine and stirring continued at room temperature for 1 h. A solution of 150 mg (0.56 mmol) 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine in 5 ml dioxane and 1 ml DMF was then added and stirring continued at room temperature for 16 h. The reaction mixture was then poured into 100 ml 1 M hydrochloric acid and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/4-1/1 ethyl acetate/hexane) followed by trituration in hexane afforded 55 mg (25%) 4-fluoro-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide as an off-white crystalline solid. ES-MS m/e (%): 390 (M+H+, 100).

reactant | 4-fluoro-benzoic acid | 0.56 mmol, 79 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | 0.62 mmol, 235 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | 0.62 mmol, 0.11 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine | 0.56 mmol, 150 mg | COC1=CC=C(C2=C1N=C(S2)N)N(C)CCOC | C12H17N3O2S
reactant | hydrochloric acid | 1 M, 100 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-fluoro-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide | 55 mg, 25% | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(C)CCOC)OC)C=C1 | C19H20FN3O3S
